US04743685
(F) 3-[[(1,4-Dihydro-5-hydroxy-4-oxo-2-pyridinyl)carbonyl]amino]-2-oxo-1-imidazolidinecarboxylic acid, hydrazide
3-[[[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2pyridinyl]carbonyl]amino]-2-oxo-1-imidazolidinecarboxylic acid, hydrazide (21.9 g) was suspended in 250 ml of acetonitrile. To the suspension was added 75 ml of bis-trimethylsilylacetamide and the mixture was stirred to form a solution. To the solution was added 10 g of palladium on charcoal (10%) and hydrogen was passed through the vigorously stirred mixture. The debenzylation was complete after 1 hour. After filtration, 15 ml of methanol and 10 drops of acetic acid were added to precipitate the title compound. Yield: 10.8 g. This crude material was stirred with 150 ml of ethanol to yield 8.8 g of the title compound, melting point <205° C., dec.

reactant | 3-[[[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2pyridinyl]carbonyl]amino]-2-oxo-1-imidazolidinecarboxylic acid, hydrazide | 21.9 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C(=O)NN1C(N(CC1)C(=O)NN)=O | C17H18N6O5
reactant | bis-trimethylsilylacetamide | 75 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
catalyst | palladium on charcoal | 10 g | [Pd] | Pd
product | 3-[[(1,4-Dihydro-5-hydroxy-4-oxo-2-pyridinyl)carbonyl]amino]-2-oxo-1-imidazolidinecarboxylic acid, hydrazide | 8.8 g | OC=1C(C=C(NC1)C(=O)NN1C(N(CC1)C(=O)NN)=O)=O | C10H12N6O5
